US04230714
A solution consisting of 2-dimethylaminomethyl-3-hydroxypyridine (30.4 g.) and imidazole (13.6 g.) dissolved in xylene (100 ml.) was heated under reflux for a period of five hours and then allowed to cool to room temperature (~25° C.). The resulting precipitated oil was then scratched so as to induce crystallization and the solid product so obtained was thereafter crystallized from isopropanol/petroleum ether (b.p. 60°-80° C.) to afford pure 2-(imidazol-1-ylmethyl)-3-hydroxypyridine (yield, 24.9 g.), m.p. 154°-155° C.

reactant | 2-dimethylaminomethyl-3-hydroxypyridine | 30.4 g | CN(C)CC1=NC=CC=C1O | C8H12N2O
reactant | imidazole | 13.6 g | N1C=NC=C1 | C3H4N2
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-(imidazol-1-ylmethyl)-3-hydroxypyridine | 24.9 g | N1(C=NC=C1)CC1=NC=CC=C1O | C9H9N3O
